US07632829B2
1-(3-Iodo-2,2-dimethyl-propyl)-piperidine
In analogy to the procedure described for example 6D, methanesulfonic acid 2,2-dimethyl-3-piperidin-1-yl-propyl ester and sodium iodide stirred at 95° C. for 3 h gave the title compound as brown oil. MS: 282.1 (MH+).

reactant | methanesulfonic acid 2,2-dimethyl-3-piperidin-1-yl-propyl ester | CC(COS(=O)(=O)C)(CN1CCCCC1)C | C11H23NO3S
reactant | sodium iodide | [I-].[Na+]
product | 1-(3-Iodo-2,2-dimethyl-propyl)-piperidine | ICC(CN1CCCCC1)(C)C | C10H20IN
